US04357351
1,3-di-n-heptyl-1-trichloromethylthio-2-ethyl isothiourea
3 g (0.01 mole) 1,3-di-n-heptyl-2-ethyl isothiourea was mixed with 50 ml tetrahydrofuran in a stirred round bottom flask and cooled in an ice bath. 1.4 ml (0.01 mole) triethylamine was added and the mixture stirred for 10 minutes. 1.1 ml (0.01 mole) trichloromethyl sulfenyl chloride was added to the mixture dropwise over 2 minutes. A white precipitate formed and the mixture was stirred for 1 hour while coming to ambient temperature. The resultant reaction mixture was allowed to sit overnight. The mixture was suction filtered to remove the white solid which was rinsed twice with 10 ml of fresh tetrahydrofuran. The filtrate was evaporated under vacuum resulting in 4.55 g of the title product at a yield of 101.2 percent. The resulting liquid had a nD30 of 1.5084 and was identified as the title compound by IR spectrum and mass spectroscopy. Compound No. 297 in Table I.

reactant | 1,3-di-n-heptyl-2-ethyl isothiourea | 0.01 mole, 3 g | C(CCCCCC)NC(SCC)=NCCCCCCC | C17H36N2S
reactant | triethylamine | 0.01 mole, 1.4 ml | C(C)N(CC)CC | C6H15N
reactant | trichloromethyl sulfenyl chloride | 0.01 mole, 1.1 ml | ClC(SCl)(Cl)Cl | CCl4S
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 1,3-di-n-heptyl-1-trichloromethylthio-2-ethyl isothiourea | 4.55 g, yield of 101.2 percent | C(CCCCCC)N(C(SCC)=NCCCCCCC)SC(Cl)(Cl)Cl | C18H35Cl3N2S2
